US04057416
1,1-Dimethyl-3-(4-carbamoyl-3-(ethylthio)-5-isothiazolyl)urea
A mixture of 4.0 g of 1,1-dimethyl-3-(4-cyano-3-(ethylthio)-5-isothiazolyl)urea in 6 ml of concentrated sulfuric acid was heated at 100° during one hour. The reaction mixture was treated as described in Example XIII to give, after recrystallization from ethanol, 2.8 g of 1,1-dimethyl-3-(4-carbamoyl-3-(ethylthio)-5-isothiazolyl)urea, m.p. 147°. The nmr spectrum was consistent with the assigned structure.

reactant | 1,1-dimethyl-3-(4-cyano-3-(ethylthio)-5-isothiazolyl)urea | 4.0 g | CN(C(=O)NC1=C(C(=NS1)SCC)C#N)C | C9H12N4OS2
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
product | 1,1-Dimethyl-3-(4-carbamoyl-3-(ethylthio)-5-isothiazolyl)urea | CN(C(=O)NC1=C(C(=NS1)SCC)C(N)=O)C | C9H14N4O2S2
